US08614201B2
Intermediate 26: [2-(4-Trifluoromethyl-phenyl)-pyridin-4-ylmethyl]-carbamic acid tert-butyl ester
To a solution of 2-(4-trifluoromethyl-phenyl)-isonicotinonitrile (1.40 g, 5.64 mmol) in ethanol (40 mL) was added 1.25 M HCl in ethanol (4.5 mL, 5.64 mmol) and Pd/C (0.14 g) and the reaction mixture was placed under a 50 psi hydrogen atmosphere for 12 hours. The reaction mixture was filtered through a pad of celite and concentrated. The resulting residue was re-dissolved in THF (10 mL) followed by addition of di-tert-butyl dicarbonate (1.85 g, 8.46 mmol) and triethylamine (1.6 mL, 11.28 mmol). The reaction mixture was stirred for 8 hours and water was added. The resulting mixture was extracted with EtOAc. The organic layers were combined, concentrated and purified by FCC (0-100% EtOAc in hexane) to provide the desired product (1.30 g, 65%). MS (ESI): mass calcd. for C18H19F3N2O2, 352.35; m/z found 353.2 [M+H]+. 1H NMR (500 MHz, CDCl3) δ 8.66 (d, J=5.0, 1H), 8.10 (d, J=8.0, 2H), 7.72 (d, J=8.1, 2H), 7.66 (s, 1H), 7.21 (d, J=5.0, 1H), 4.41 (s, 2H), 1.49 (s, 9H).

reactant | 2-(4-trifluoromethyl-phenyl)-isonicotinonitrile | 5.64 mmol, 1.40 g | FC(C1=CC=C(C=C1)C=1C=C(C#N)C=CN1)(F)F | C13H7F3N2
reactant | HCl | 1.25 M | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | di-tert-butyl dicarbonate | 8.46 mmol, 1.85 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 11.28 mmol, 1.6 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.14 g | [Pd] | Pd
solvent | ethanol | 5.64 mmol, 4.5 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | [2-(4-Trifluoromethyl-phenyl)-pyridin-4-ylmethyl]-carbamic acid tert-butyl ester | 1.30 g, 65% | C(C)(C)(C)OC(NCC1=CC(=NC=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C18H19F3N2O2
